### PR TITLE
feat: small games

### PR DESCRIPTION
**Pull request by vihdzp**
We create a new typeclass for small games, prove basic API, and re-state the lawnmower theorem using this typeclass.

- [x] depends on: #302

### CODE REVIEW

File: CombinatorialGames/Game/Small.lean [hunk 1]
```diff
@@ -4,67 +4,117 @@ Released under Apache 2.0 license as described in the file LICENSE.
...
-protected theorem lt_of_numeric_of_pos (x) [Impartial x] {y} [Numeric y] (hy : 0 < y) : x < y := by
-  grw [← nim_grundy_equiv x]
-  exact Dicotic.lt_of_numeric_of_pos _ hy
-
-/-- One half of the **lawnmower theorem** for impartial games. -/
-protected theorem lt_of_numeric_of_neg (x) [Impartial x] {y} [Numeric y] (hy : y < 0) : y < x := by
-  grw [← nim_grundy_equiv x]
-  exact Dicotic.lt_of_numeric_of_neg _ hy
+-- TODO: a game is dicotic iff every non-strict subposition is small.
+-- First, we need a predicate for non-strict subpositions!
```
Comment (plp127) [inline CombinatorialGames/Game/Small.lean:115]: We have this now!
